US09391288B2
Next, a mixed solution of 22 g of 2-(4-chlorophenyl)nitrobenzene, 61 g of triphenylphosphine and 190 ml of o-dichlorobenzene was refluxed for 6 hours under a nitrogen flow. The solution was cooled to room temperature, o-dichlorobenzene was then distilled away under reduced pressure, and the concentrate was purified by silica gel column chromatography, and vacuum-dried to obtain 17.7 g of 2-chloro-9H-carbazole.

reactant | 2-(4-chlorophenyl)nitrobenzene | 22 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO2
reactant | triphenylphosphine | 61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | o-dichlorobenzene | 190 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-chloro-9H-carbazole | 17.7 g | ClC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H8ClN
